US08242153B2
In analogy to example 1d (S)-2-amino-5-methyl-5-phenyl-hexan-1-ol was reacted with cyanogen bromide to give (S)-4-(3-methyl-3-phenyl-butyl)-4,5-dihydro-oxazol-2-ylamine. White solid. MS (ISP): 233.1 ([M+H]+))

reactant | (S)-2-amino-5-methyl-5-phenyl-hexan-1-ol | N[C@H](CO)CCC(C)(C1=CC=CC=C1)C | C13H21NO
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-(3-methyl-3-phenyl-butyl)-4,5-dihydro-oxazol-2-ylamine | CC(CC[C@@H]1N=C(OC1)N)(C)C1=CC=CC=C1 | C14H20N2O
